US04818273
Preparation of 6-fluoro-2-trifluoromethylbenzoic acid
A mixture of 3-fluorobenzotrifluoride (25.0 g, 0.15 mol) in tetrahydrofuran (200 ml) was cooled to -78° C. in a dry ice/acetone bath under nitrogen atmosphere. To this solution was added dropwise with rapid stirring N-butyl lithium (1.6M, 95.2 ml) at such rate that the temperature did not exceed -60° C. When the addition was complete, the mixture was allowed to stir at -78° C. for an additional five hours. The mixture was then poured over a slurry of dry ice/ether and allowed to come to room temperature. The solvent was removed by evaporation under reduced pressure to obtain a white solid residue. This solid was dissolved in a minimum amount of water, the solution was extracted with diethyl ether (2×100 ml) and the aqueous phase was acidified to pH 2 with dilute hydrochloric acid. An oil formed and this was dissolved in diethyl ether; the solution was washed several times with water and dried over magnesium sulfate. The solvent was removed by evaporation under reduced pressure to give a white solid. NMR analysis indicated this product was a mixture of the title compound and an isomer. A yield of 15.6 g (50 percent of theory) was obtained.

reactant | 3-fluorobenzotrifluoride | 0.15 mol, 25.0 g | FC=1C=C(C=CC1)C(F)(F)F | C7H4F4
reactant | dry ice ether | C(=O)=O.CCOCC
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-fluoro-2-trifluoromethylbenzoic acid | FC1=CC=CC(=C1C(=O)O)C(F)(F)F | C8H4F4O2
